US08865920B2
Synthesis of N-Acetyl Benzylamine
Benzylamine (1 mL) and acetic acid (20 mL) may be mixed together. The mixture may be heated at 115° C. for 17 hours. The excess acetic acid may be distilled from the reaction mixture using a rotary evaporator. The product may be crystallized from toluene. The mixture may be cooled to 0° C. and then filtered.

reactant | Benzylamine | 1 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | N-Acetyl Benzylamine | C(C)(=O)NCC1=CC=CC=C1 | C9H11NO
